Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Salmon Oil / Erythromycin / Darvon-N / Aspirin
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
stress test
 
History of Present Illness:
HPI
___ ___ with h/o COPD, HTN, and sleep apnea p/w one episode of ___ 
last night.
.
She was going her dishes before going to sleep whe she fell like 
she was going to faint. This was associated with diaphoresis. 
She was able to walk to a chair and sit down. This improved her 
symptoms. She denied any veritigo and she did not fall or loose 
consciousness at any time. She denies any CP, palpitations, 
extremity weakness or uncontrolled body movements prior or 
during the episode. She denies recent fever, chills, dyspnea, or 
dysuria.
.
On ED she was had a clear CTA for PE, normal CE x2 and normal 
ECG. She is pending thalium stress test given her poor excercise 
ability. Incidentally had extravasation of contrast when preped 
for CTA plastics c/s.
 
Past Medical History:
HTN
dyslipidemia
GERD
COPD
diverticulosis
sleep apnea (has cpap, but doesnt use ___ claustrophobia)
Arthritis
morbid obesity

 
Social History:
___
Family History:
F died ___ CAD
M died color. ca
 
Physical Exam:
PE
GEN:AO3 NAD  
97, 152/77, 73, 18
HEENT: NCAT, EOMI, PERRL, oropharynx clear and without erythema 
or exudate  
NECK: Supple, no LAD, no appreciable JVD  
CV: RRR, normal S1S2, no murmurs, rubs or gallops  
PULM: CTAB, no w/r/r, good air movement bilaterally  
ABD: Soft, mild ttp over RUQ, normoactive bowel sounds, no 
organomegaly, no abdominal bruit appreciated  
EXT: Warm and well perfused, full and symmetric distal pulses, 
no pedal edema  
NEURO: AAOx3, responds appropriately to questions, CN ___ 
grossly intact  
.

 
Pertinent Results:
___ 10:15AM BLOOD WBC-6.4 RBC-4.04* Hgb-12.8 Hct-36.3 
MCV-90 MCH-31.8 MCHC-35.4* RDW-12.5 Plt ___
___ 12:15AM BLOOD Neuts-63.5 ___ Monos-7.1 Eos-0.7 
Baso-0.2
___ 12:15AM BLOOD D-Dimer-791*
___ 10:15AM BLOOD Glucose-106* UreaN-14 Creat-0.8 Na-135 
K-4.2 Cl-98 HCO3-27 AnGap-14
___ 07:19AM BLOOD ALT-19 AST-24 LD(LDH)-197 CK(CPK)-28 
AlkPhos-75 Amylase-42 TotBili-0.4
___ 10:15AM BLOOD Calcium-10.4* Phos-3.0 Mg-2.3

CTA wet read
Slightly limited by bolus timing. No PE in main, lobar or 
segmental pulmonary arteries. No dissection. With the exception 
of right basal atelectasis, clear lungs. No lymphadenopathy. 
Elevated right hemidiaphragm. Old humerus fracture. 

CXR
1. No radiographic evidence of pneumonia or CHF. 
2. Persistent elevation of the right hemidiaphragm. 

Stress
IMPRESSION: No ischemic EKG changes or anginal symptoms with 
pharmacologic stress test. Nuclear report sent separately. 

Nuclear report
No myocardial perfusion defects seen in the setting of very 
significant soft tissue attenuation. 2. Calculated LVEF is 43% 
and the LVEDV is 117mL though visual inspection suggests a 
normal LVEF  

 
Brief Hospital Course:
# LH
The patient presented to the ED with 
Lightheadedness/diaphoresis. Initial evaluation in the ED 
included CXR which did not demonstrate signs of infection, as 
well as two sets of cardiac enzymes which were negative and a 
ECG showing NSR. Because the patients body habitus and her 
previous history of breast cancer, a D dimer was ordered and was 
elevated. A CTA of the chest was perfomed and was negative for 
PE. Upon preparation for CTA it was noted that the patient was 
extravasating contrast from her right arm IV site. Plastic 
surgery was consulted and the patient was intructed to keep arm 
elevated above head and cold packs were placed to reduce 
swelling. The patient was admited to the wards for observation 
and so that she could obtain a nuclear imaging stress test (due 
to her underying arthritis and diminished ambulatory ability). 
This came back negative. With this in mind, the most likely 
explaination for this patients pre-syncope is orthostasis. Of 
note is also that the CXR showed right sided atelectasis but 
given this patients smoking history it may be prudent to 
evaluate for the presence of neoplastic lesions. The patient was 
instructed to follow up with her PCP. 

 
Medications on Admission:
Acetam 325 mg po QD
Cerebrex ___ mg po QD
isosorbide dinitrate 20 mg po QD
zocor 10 mg po QD
Nexium 40 mg po QD
Wellbutrin 100 mg po BID
HCTZ 25 mg po QD
Diovan 80 mg po QD
Rhinocort Aqua 32 mcg nasal 2 spray BID
Travatan 0.004% eye drops 1 drop both eyes 
timolol ? strength 1 drop bid b/l
Foradil aerolizer 12 mcg 1 cap inh BID
Spiriva w handihaler 18 mcg 1cap QD
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
6. Timolol Maleate 0.25 % Drops Sig: One (1) Drop Ophthalmic BID 
(2 times a day).  
7. Bupropion 100 mg Tablet Sig: 1.5 Tablets PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
orthostasis

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admited secondary to feeling lightheaded. Our 
evaluation did not demonstrate any evidence of infection or 
heart attack or pulmonary embolism. The most likely cause at 
this point in time is orthostasis, a condition where your blood 
pools in your legs while standing up and makes you feel 
lightheaded.

Please make sure to call your regular physician or go to the ED 
if you experience any of the following:
- chest pain, palpitations, dyspnea, fever, chills, 
lightheadedness, fainting episodes, worsening 
swelling/redness/pain on the iv site on the right arm, or any 
other symptoms that are beyond your normal range.

Please make sure to continue your home medications as we did not 
change your medication regiment.
 
Followup Instructions:
___